US09278944B2
To a solution of N-{1-[3-bromo-4-iodo-1-(3-methoxypropyl)-1H-indazol-6-yl]ethyl}cyclopropanamine (10.2 g) in dichloromethane (200 mL) was added di-t-butyl dicarbonate (5.12 g) under ice-cooling, and the mixture was stirred at room temperature for 21 hours. Then, thereto was added dimethylaminopyridine (261 mg), and the mixture was stirred for additional 6 hours at room temperature. To the reaction solution was added water under ice-cooling, and the mixture was extracted with chloroform. The organic layer was washed with saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1→4/1) to give tert-butyl N-{1-[3-bromo-4-iodo-1-(3-methoxypropyl)-1H-indazol-6-yl]ethyl}cyclopropylcarbamate [REx(29-1)] (7.62 g) as a yellow oil.

reactant | N-{1-[3-bromo-4-iodo-1-(3-methoxypropyl)-1H-indazol-6-yl]ethyl}cyclopropanamine | 10.2 g | BrC1=NN(C2=CC(=CC(=C12)I)C(C)NC1CC1)CCCOC | C16H21BrIN3O
reactant | di-t-butyl dicarbonate | 5.12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 261 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | water | O | H2O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-butyl N-{1-[3-bromo-4-iodo-1-(3-methoxypropyl)-1H-indazol-6-yl]ethyl}cyclopropylcarbamate | 7.62 g | BrC1=NN(C2=CC(=CC(=C12)I)C(C)N(C(OC(C)(C)C)=O)C1CC1)CCCOC | C21H29BrIN3O3
